US07129239B2
Preparation of 8-[9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-1-isopropyl-3-methyl-1,3,8-triaza-spiro[4.5]decan-4-one Hydrochloride Salt (25A-1)
A suspension of 8-[9-(4-chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-1-isopropyl-1,3,8-triazaspiro[4.5]decan-4-one 13A-1 (86 mg, 0.16 mmol) and methyl iodide (2 M in MTBE, 16 μl) in 1:1 tetrahydrofuran/dimethylformamide (2 ml) was treated with sodium hydride (60% dispersion in oil, 12 mg, 0.3 mmol). After stirring for 2 hours, the mixture was extracted from saturated aqueous sodium bicarbonate with ethyl acetate, dried (Na2SO4), concentrated (123 mg), and then purified by flash chromatography using 4% methanol to give title compound 25A-1 as an oil (87 mg, quantitative). A methylene chloride solution of the material was treated with excess 1 M HCl in ether, concentrated under a stream of nitrogen, and then triturated from ether to give the hydrochloride salt of compound 25A-1 (82 mg, 82% overall) as a colorless solid: +ESI MS (M+1) 550.2; 1H NMR (400 MHz, CD3OD) δ 8.34 (s, 1H), 7.60 (d, J=7.9 Hz, 1H), 7.51–7.39 (m, 5H), 7.31 (d, J=8.3 Hz, 2H), 4.76 (s, 2H), 4.14 (brs, 2H), 3.78 (brs, 1H), 2.96 (s, 3H), 2.28 (br s, 4H), 1.32 (d, J=6.2 Hz, 6H).

reactant | 8-[9-(4-chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-1-isopropyl-1,3,8-triazaspiro[4.5]decan-4-one | 0.16 mmol, 86 mg | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=CC=C1)Cl)N1CCC2(C(NCN2C(C)C)=O)CC1 | C27H27Cl2N7O
reactant | methyl iodide | 2 M, 16 μl | CI | CH3I
reactant | sodium hydride | 0.3 mmol, 12 mg | [H-].[Na+]
solvent | tetrahydrofuran dimethylformamide | 2 ml | O1CCCC1.CN(C=O)C
product | 8-[9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-1-isopropyl-3-methyl-1,3,8-triaza-spiro[4.5]decan-4-one Hydrochloride Salt | Cl.ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=CC=C1)Cl)N1CCC2(C(N(CN2C(C)C)C)=O)CC1 | InChI=1S/C28H29Cl2N7O.ClH/c1-18(2)36-17-34(3)27(38)28(36)12-14-35(15-13-28)25-23-26(32-16-31-25)37(20-10-8-19(29)9-11-20)24(33-23)21-6-4-5-7-22(21)30;/h4-11,16,18H,12-15,17H2,1-3H3;1H
